// Point Netlist Generated on: Nov  9 15:51:49 2025
// Generated for: spectre
// Design Netlist Generated on: Nov  9 15:51:49 2025
// Design library name: LAB2
// Design cell name: transconductance
// Design view name: schematic
simulator lang=spectre
global 0
parameters temperature=27 gm=0.227m IT=0 cdb1=77.36f cds1=45.47f \
    cgb1=160.82f cgd1=24.60f cgs1=111.69f gm1=1000 rds1=23885929.34 VIN=1
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/config.scs" section=default
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/param.scs" section=3s
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/bip.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/cap.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/dio.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/mos.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/photo.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/res.scs" section=tm

// Library name: DAY2
// Cell name: MOS_AC
// View name: schematic
subckt MOS_AC D G S
parameters _par0 rds cgb cgs cgd cdb cds
    G0 (D S G S) vccs gm=_par0
    R0 (D S) resistor r=rds
    C6 (G S) capacitor c=cgb
    C5 (G S) capacitor c=cgs
    C4 (G D) capacitor c=cgd
    C3 (D S) capacitor c=cdb
    C0 (D S) capacitor c=cds
ends MOS_AC
// End of subcircuit definition.

// Library name: LAB2
// Cell name: transconductance
// View name: schematic
IPRB0 (VOUT net2) iprobe
R2 (net1 VG) resistor r=1k
R1 (net2 0) resistor r=1k
R0 (VS 0) resistor r=10k
V0 (net1 0) vsource mag=VIN type=sine
I4 (VS VOUT) isource mag=IT type=sine
I0 (VOUT VG VS) MOS_AC _par0=gm1 rds=rds1 cgb=cgb1 cgs=cgs1 cgd=cgd1 \
        cdb=cdb1 cds=cds1
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=0.01 stop=10G dec=20 annotate=status 
pz pz oprobe=IPRB0 iprobe=V0 freq=1 porti=1 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save VOUT R1:1 
saveOptions options save=selected
